US07915443B2
N-(3-ethynylphenyl)thiophene-2-carboxamide
A dry 25 mL flask was charged with thiophene-2-carbonyl chloride and THF (5 mL) was added. 3-Ethynyl-phenylamine (0.905 g, 3.59 mmol) was added to the THF solution of the acid chloride followed by NEt3, and the mixture was allowed to stir at 55° C. The reaction mixture was then allowed to cool to room temperature and extracted with EtOAc (˜10 mL), 1M HCl (˜10 mL), followed by brine (˜10 mL). The combined organic extracts were combined and dried over anhydrous Na2SO4(s) and the concentrated. The crude residue was purified by chromatography (silica gel, gradient elution EtOAc/Hexanes 0 to 50%). The product containing fractions were concentrated to give the title compound as a tan solid (0.33 mg, 1.45 mmol, 85%).

reactant | thiophene-2-carbonyl chloride | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | 3-Ethynyl-phenylamine | 3.59 mmol, 0.905 g | C(#C)C=1C=C(C=CC1)N | C8H7N
solvent | NEt3 | CCN(CC)CC | C6H15N
product | N-(3-ethynylphenyl)thiophene-2-carboxamide | 1.45 mmol, 0.33 mg, 85% | C(#C)C=1C=C(C=CC1)NC(=O)C=1SC=CC1 | C13H9NOS
